US07211672B2
(±)-Cis-N-[2-methyl-1-(4-piperidin-4-yl-benzoyl)-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide was prepared from (±)-cis-4-{4-[2-methyl-4-(phenyl-propionyl-amino)-3,4-dihydro-2H-quinoline-1-carbonyl]-phenyl}-piperidine-1-carboxylic acid ethyl ester. (±)-Cis-4-{4-[2-methyl-4-(phenyl-propionyl-amino)-3,4-dihydro-2H-quinoline-1-carbonyl]-phenyl}-piperidine-1-carboxylic acid ethyl ester (96 mg, 0.17 mmol) was dissolved in acetonitrile (2 mL). Iodotrimetylsilane (74 uL, 0.51 mmol) was added and the reaction was allowed to stir at room temperature over night. Excess reagent was quenched by the addition of methanol (1 mL) and the mixture was concentrated under reduced pressure. The crude residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The extracts were washed with 1 M sodium hydroxide, saturated aqueous sodium thiosulfate and brine, dried over sodium sulfate, filtered, concentrated and purified by silica gel chromatography (3:1 methylene chloride/methanol) (77 mg, 94%).

reactant | (±)-cis-4-{4-[2-methyl-4-(phenyl-propionyl-amino)-3,4-dihydro-2H-quinoline-1-carbonyl]-phenyl}-piperidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)C(=O)N1[C@H](C[C@H](C2=CC=CC=C12)N(C(CC)=O)C1=CC=CC=C1)C | C34H39N3O4
reactant | (±)-Cis-4-{4-[2-methyl-4-(phenyl-propionyl-amino)-3,4-dihydro-2H-quinoline-1-carbonyl]-phenyl}-piperidine-1-carboxylic acid ethyl ester | 0.17 mmol, 96 mg | C(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)C(=O)N1[C@H](C[C@H](C2=CC=CC=C12)N(C(CC)=O)C1=CC=CC=C1)C | C34H39N3O4
reactant | Iodotrimetylsilane | 0.51 mmol, 74 uL | I[Si](C)(C)C | C3H9ISi
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (±)-Cis-N-[2-methyl-1-(4-piperidin-4-yl-benzoyl)-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide | C[C@@H]1N(C2=CC=CC=C2[C@@H](C1)N(C(CC)=O)C1=CC=CC=C1)C(C1=CC=C(C=C1)C1CCNCC1)=O | C31H35N3O2
